US03931151
A mixture of 35 g of 2-ethylthio-5-methyl-11-hydroxy-11-ethoxycarbonylmethyl-10,11-dihydro [5H] dibenzo (b,f) azepine, 500 ml of ethanol and 50 ml of 2N hydrochloric acid was stirred for 3 hours at room temperature. The mixture was poured into 2 kg of ice and the mixture was extracted with ethyl acetate. The organic extracts were washed with water, dried over magnesium sulfate and distilled to dryness under reduced pressure. The residue was chromatographed over silica gel with a 98-2 mixture of benzene-ethyl acetate as eluant which was evaporated to obtain 27.3 g of 2-ethylthio-5-methyl-11-ethoxycarbonylmethylene-10,11-dihydro [5H] dibenzo (b,f) azepine in the form of a yellow oil soluble in alcohol, chlorinated solvents and ethyl acetate and insoluble in water.

reactant | 2-ethylthio-5-methyl-11-hydroxy-11-ethoxycarbonylmethyl-10,11-dihydro [5H] dibenzo (b,f) azepine | 35 g | C(C)SC1=CC2=C(N(C3=C(CC2(CC(=O)OCC)O)C=CC=C3)C)C=C1 | C21H25NO3S
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-ethylthio-5-methyl-11-ethoxycarbonylmethylene-10,11-dihydro [5H] dibenzo (b,f) azepine | 27.3 g | C(C)SC1=CC2=C(N(C3=C(CC2=CC(=O)OCC)C=CC=C3)C)C=C1 | C21H23NO2S
